US07745475B2
3-(Benzyloxy)-5-[(1R)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
DMF (2 drops) was added to a solution of 3-(benzyloxy)-5-[(1R)-2-methoxy-1-methylethoxy]benzoic acid (3.79 g, 0.012 mol) and oxalyl chloride (1.25 mL, 0.015 mol) in DCM (60 mL) and stirred for 3 hours, following which the organics were removed in vacuo. The crude material was dissolved in DCM (30 mL) and slowly added, at 0° C., to a stirred suspension of 1-methyl-1H-pyrazol-3-amine (1.22 g, 0.013 mol) and triethylamine (3.5 mL, 0.025 mol) in DCM (30 mL). The mixture was stirred at ambient temperature for 24 hours and the organics evaporated in vacuo. The residue was dissolved in ethyl acetate (100 mL), washed with 1M aqueous hydrochloric acid (50 mL) and brine (50 mL), dried (MgSO4), filtered and evaporated in vacuo to give the crude product which was chromatographed on silica, eluting with a 50% ethyl acetate in isohexane, to give the desired compound. (4.23 g).

reactant | 3-(benzyloxy)-5-[(1R)-2-methoxy-1-methylethoxy]benzoic acid | 0.012 mol, 3.79 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1)O[C@@H](COC)C | C18H20O5
reactant | oxalyl chloride | 0.015 mol, 1.25 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-methyl-1H-pyrazol-3-amine | 0.013 mol, 1.22 g | CN1N=C(C=C1)N | C4H7N3
reactant | triethylamine | 0.025 mol, 3.5 mL | C(C)N(CC)CC | C6H15N
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-(Benzyloxy)-5-[(1R)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H](COC)C | C22H25N3O4
